US09371319B2
3-((4-Iodo-1H-pyrazol-1-yl)methyl)-5-methylisoxazole (30)
4-Iodo-1H-pyrazole (0.826 g, 4.26 mmol) (1), 3-(bromomethyl)-5-methylisoxazole (0.75 g, 4.26 mmol) and potassium carbonate (1.18 g, 8.52 mmol) were added to dry DMF (8 ml) and stirred at room temperature for 16 h. The reaction was diluted with ethyl acetate (20 ml) and washed with water, brine and dried. The organic solution was concentrated in vacuo and the residue purified by flash silica chromatography (20% ethyl acetate in hexane). The pure fractions provided the title compound as a white powder (0.7 g, 56.8%). 1H-NMR (500 MHz, CDCl3) 2.4 (s, 3H), 5.33 (s, 2H), 5.92 (s, 1H), 7.51 (s, 1H), 7.55 (s, 1H).

reactant | 4-Iodo-1H-pyrazole | 4.26 mmol, 0.826 g | IC=1C=NNC1 | C3H3IN2
reactant | 3-(bromomethyl)-5-methylisoxazole | 4.26 mmol, 0.75 g | BrCC1=NOC(=C1)C | C5H6BrNO
reactant | potassium carbonate | 8.52 mmol, 1.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-((4-Iodo-1H-pyrazol-1-yl)methyl)-5-methylisoxazole | 0.7 g, 56.8% | IC=1C=NN(C1)CC1=NOC(=C1)C | C8H8IN3O
